US06593322B1
A. (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(phenylmethoxy)prop-2-enamide
The title compound was prepared as described in Example 34.B using (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoic acid (0.365 g, 0.74 mmol), O-benzylhydroxylamine hydrochloride (0.16 g, 1.0 mmol), and 4-(N,N-dimethylamino)pyridine (0.121 g, 1.0 mmol) to provide the title compound (0.323 g, 73% yield): 1H NMR (CDCl3) 8.00 (br, 1H), 7.70 (d, 1H), 7.30-7.42 (m, 12H), 7.01 (d, 2H), 2.92 (m, 2H), 6.66-6.82 (m, 6H), 5.03 (s, 2H), 4.97 (s, 2H), 4.75 (t, 1H), 3.56 (m, 1H), 3.47 (m, 1H), 3.17 (dd, 1H), 2.88-3.00 (m, 2H), 2.66 (dt, 1H); ES-MS m/z 599 [M+H]+.

reactant | (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoic acid | 0.74 mmol, 0.365 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)O | C32H28FNO3
reactant | O-benzylhydroxylamine hydrochloride | 1.0 mmol, 0.16 g | Cl.C(C1=CC=CC=C1)ON
catalyst | 4-(N,N-dimethylamino)pyridine | 1.0 mmol, 0.121 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(phenylmethoxy)prop-2-enamide | 0.323 g, 73% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)NOCC1=CC=CC=C1 | C39H35FN2O3
